US07390903B2
To a stirred solution of 55 mg (0.197 mmol) (2-amino-5-phenyl-thiophen-3-yl)-phenyl-methanone-in-5 ml-acetic acid was added 0.016 ml (0.239 mmol) of pentane-2,4-dione and one drop of sulfuric acid. The mixture was then stirred at 100° C. for 10 minutes in a microwave and then concentrated in vacuo. Preparative HPLC (30% CH3CN/H20) afforded 19 mg (28%) 1-(6-methyl-2,4-diphenyl-thieno[2,3-b]pyridin-5-yl)-ethanone as a light grey solid. ES-MS m/e (%): 344 (M+H+, 100).

reactant | (2-amino-5-phenyl-thiophen-3-yl)-phenyl-methanone | 0.197 mmol, 55 mg | NC=1SC(=CC1C(=O)C1=CC=CC=C1)C1=CC=CC=C1 | C17H13NOS
reactant | pentane-2,4-dione | 0.239 mmol, 0.016 ml | CC(CC(C)=O)=O | C5H8O2
catalyst | sulfuric acid | one drop | S(O)(O)(=O)=O | H2O4S
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 1-(6-methyl-2,4-diphenyl-thieno[2,3-b]pyridin-5-yl)-ethanone | 19 mg, 28% | CC1=C(C(=C2C(=N1)SC(=C2)C2=CC=CC=C2)C2=CC=CC=C2)C(C)=O | C22H17NOS
